US04452851
Vilsmeier reagent prepared from phosphorus oxychloride (0.52 ml) and N,N-dimethylformamide (0.44 ml) was suspended in dry tetrahydrofuran (16.5 ml). To the stirred suspension was added 2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 1.67 g) under ice-cooling and then the solution was stirred for an hour at the same temperature to prepare the activated acid solution. To the solution of benzhydryl 7-amino-3-ethylthio-3-cephem-4-carboxylate hydrochloride (2.0 g) and monotrimethylsilylacetamide (5.67 g) in methylene chloride (40 ml) was added the activated acid solution all at once at -20° C., and then the mixed solution was stirred for an hour at -20° to -10° C. To the resultant solution were added water (50 ml) and ethyl acetate (100 ml). The organic layer was separated and washed with 5% aqueous solution of sodium bicarbonate. The solution was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.5 g), mp. 113° to 123° C.

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.52 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 1.67 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C14H17N3O6
reactant | benzhydryl 7-amino-3-ethylthio-3-cephem-4-carboxylate hydrochloride | 2.0 g | Cl.NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
solvent | tetrahydrofuran | 16.5 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.44 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.5 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C36H37N5O7S2
